US07754728B2
Methyl 3-bromomethylbenzoate
3-Bromomethylbenzoyl chloride (1.96 g, 10.37 mmol) was dissolved in methanol (20 ml), and triethylamine (1.5 ml) was added thereto. The mixture was stirred at room temperature for 1 hour. The mixture was poured into a saturated sodium hydrogencarbonate solution and was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give the captioned compound (1.90 g, 10.29 mmol, yield: 97%) as a colorless oil.

reactant | 3-Bromomethylbenzoyl chloride | 10.37 mmol, 1.96 g | BrCC=1C=C(C(=O)Cl)C=CC1 | C8H6BrClO
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 3-bromomethylbenzoate | 10.29 mmol, 1.90 g, yield: 97% | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
